US06906084B2
1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-indole-2-carboxylic acid (1-methanesulfonyl-piperidin-4-yl)-amide
To a solution of 50 mg 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-indole-2-carboxylic acid piperidin-4-ylamide in 2 ml DCM, 0.3 ml NEt3 and 20 mg Methanesulfonyl chloride were added at RT and stirred for 16 h. After removal of the solvent under reduced pressure the residue was directly purified by preparative RP-HPLC eluting with a gradient of 0-100% acetonitrile in water (+0.01% trifluoroacetic acid). After lyophilization the product was obtained as a white solid.

reactant | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-indole-2-carboxylic acid piperidin-4-ylamide | 50 mg | N1CCC(CC1)NC(=O)C=1N(C2=CC=CC=C2C1)CC1=NOC(=C1)C=1SC(=CC1)Cl | C22H21ClN4O2S
reactant | Methanesulfonyl chloride | 20 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
solvent | NEt3 | 0.3 ml | CCN(CC)CC | C6H15N
product | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-indole-2-carboxylic acid (1-methanesulfonyl-piperidin-4-yl)-amide | CS(=O)(=O)N1CCC(CC1)NC(=O)C=1N(C2=CC=CC=C2C1)CC1=NOC(=C1)C=1SC(=CC1)Cl | C23H23ClN4O4S2
